### PR TITLE
feat: non-injectivity of large measure

### PR DESCRIPTION
**Pull request by tb65536**
This PR reduces `not_injective_of_large_measure` to knowing `CompactSpace (D_𝔸 ⧸ H)`.

This builds on this mathlib PR: https://github.com/leanprover-community/mathlib4/pull/32672

### CODE REVIEW

**Comment by tb65536** [comment]
awaiting-author

**Comment by tb65536** [comment]
-awaiting-author

**Comment by tb65536** [comment]
awaiting-review

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 1]
```diff
@@ -100,13 +106,120 @@ theorem D_discrete : ∀ x : D, ∃ U : Set D_𝔸,
...
+    rw [← hc] at hd2
+    apply Set.mem_preimage.mpr at hd2
+    simp only [AddMonoidHom.coe_coe, hUeq, Set.mem_singleton_iff] at hd2
+    simp_rw [← hc, hd2, ha]
+  · intro hd
+    constructor
+    · refine Set.mem_range.mpr ⟨a', ?_⟩
+      rwa [hd]
+    · rw [hd, ← ha]
+      exact Set.mem_preimage.mp (by simp [hUeq])
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
local instance discrete_includeLeft_subgroup :
    DiscreteTopology (includeLeft_subgroup K D).carrier := by
  rw [includeLeft_subgroup, discreteTopology_iff_isOpen_singleton]
  rintro ⟨a, a', rfl⟩
  obtain ⟨U, hUopen, hUeq⟩ := (D_discrete K D) a'
  refine isOpen_mk.mpr ⟨U, hUopen, Set.image_val_inj.mp ?_⟩
  simp only [Subtype.image_preimage_coe, Set.image_singleton]
  let f : D → D ⊗[K] AdeleRing (𝓞 K) K :=
    (Algebra.TensorProduct.includeLeft : D →ₐ[K] D ⊗[K] AdeleRing (𝓞 K) K)
  change Set.range f ∩ U = {f a'}
  change f ⁻¹' U = {a'} at hUeq
  ext d
  simp [Set.ext_iff] at hUeq
  grind
```

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 2]
```diff
@@ -100,13 +106,120 @@ theorem D_discrete : ∀ x : D, ∃ U : Set D_𝔸,
...
+    simp only [principalSubgroup]
+    let α : K →ₐ[K] K ⊗[K] AdeleRing (𝓞 K) K := Algebra.TensorProduct.includeLeft
+    let β : K →+* AdeleRing (𝓞 K) K := algebraMap K (AdeleRing (𝓞 K) K)
+    change ∀ x, x ∈ α.range ↔ ψ (φ x) ∈ β.range
+    suffices ∀ x, φ (α (f x)) = ψ.symm (β x) by
+      simp only [AlgHom.mem_range, RingHom.mem_range, ← h, ← this, EmbeddingLike.apply_eq_iff_eq]
+      intro x
+      exact (Equiv.exists_congr_right f).symm
+    simp [hψ, α, β, φ, Algebra.algebraMap_eq_smul_one, f, f₀, g₀]
+  exact χ.discreteTopology
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
instance discrete_principalSubgroup :
    DiscreteTopology (principalSubgroup (𝓞 K) K : Set (AdeleRing (𝓞 K) K)) := by
  rw [discreteTopology_iff_isOpen_singleton]
  rintro ⟨-, y, rfl⟩
  obtain ⟨U, hUopen, hU⟩ := NumberField.AdeleRing.discrete K y
  refine isOpen_mk.mpr ⟨U, hUopen, Set.image_val_inj.mp ?_⟩
  simp only [Subtype.image_preimage_coe, Set.image_singleton]
  let f : K → AdeleRing (𝓞 K) K := algebraMap K (AdeleRing (𝓞 K) K)
  change Set.range f ∩ U = {f y}
  change f ⁻¹' U = {y} at hU
  ext d
  simp [Set.ext_iff] at hU
  grind
```

File: FLT/Mathlib/MeasureTheory/Haar/Extension.lean [hunk 3]
```diff
@@ -0,0 +1,358 @@
...
+import Mathlib.MeasureTheory.Constructions.Polish.Basic
+import Mathlib.MeasureTheory.Group.Integral
+import Mathlib.MeasureTheory.Measure.Haar.Unique
+import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Real
+
+/-!
+# Haar measures on group extensions
+
+In this file, if `1 → A → B → C → 1` is a short exact sequence of topological groups,
+we construct a Haar measure on `B` from Haar measures on `A` and `B`.
```
Comment (kbuzzard) [inline FLT/Mathlib/MeasureTheory/Haar/Extension.lean:17]:
```suggestion
we construct a Haar measure on `B` from Haar measures on `A` and `C`.
```

File: FLT/Mathlib/Topology/Polish.lean [hunk 4]
```diff
@@ -0,0 +1,73 @@
...
+        rw [← s_preim_t]
+        exact Eq.symm image_preimage_eq_inter_range
+      rw [inter_assoc, this] at dn
+      exact dn
+    · apply closure_mono
+      intro z hz
+      obtain ⟨w, hw, h⟩ := hz
+      rw [← h]
+      rw [← s_preim_t] at hw
+      exact hw
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Polish.lean]:
```suggestion
grind [closure_mono]
```

File: FLT/Mathlib/Topology/Polish.lean [hunk 5]
```diff
@@ -0,0 +1,73 @@
...
+      rw [mem_closure_iff]
+      intro o o_op z_in_o
+      unfold DenseRange at dn
+      rw [dense_iff_inter_open] at dn
+      specialize dn (o ∩ t) (o_op.inter t_op) ⟨z, z_in_o, hz⟩
+      have : t ∩ range f = f '' s := by
+        rw [← s_preim_t]
+        exact Eq.symm image_preimage_eq_inter_range
+      rw [inter_assoc, this] at dn
+      exact dn
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Polish.lean]:
```suggestion
      grind [image_preimage_eq_inter_range]
```
